US04791127
A mixture of 0.5 g of 5-isobutylthio-3-pyridinol (m.p. 83° to 84° C.) and 0.5 ml of pyridine was cooled to 5° to 10° C. 1 g of trifluoromethanesulfonic anhydride was added with stirring to the mixture, which was stirred at this temperature for 30 min. The reaction was continued at room temperature for further 5 hours. The reaction solution was poured into 100 ml of chilled water and extracted twice by 50 ml of toluene. The toluene layer obtained was washed twice by water. The residue obtained by distilling off the solvent was purified by silica-gel column chromatography (developer: ethylacetate and n-hexane) to obtain 0.9 g of the objective 5-isobutylthio-3-pyridyl trifluoromethanesulfonate as a colourless oil (yield: 95.1%).

reactant | 5-isobutylthio-3-pyridinol | 0.5 g | C(C(C)C)SC=1C=C(C=NC1)O | C9H13NOS
reactant | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 1 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | water | 100 ml | O | H2O
product | 5-isobutylthio-3-pyridyl trifluoromethanesulfonate | 0.9 g, yield: 95.1% | FC(S(=O)(=O)OC=1C=NC=C(C1)SCC(C)C)(F)F | C10H12F3NO3S2
